US06982278B2
A mixture of 2-(4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.30 g, 0.614 mmol), potassium phosphate (0.26 g, 1.22 mmol), 2-(di-tert-butylphosphino)biphenyl (0.014 g, 0.0469 mmol) and phenol (0.069 g, 0.733 mmol) in toluene (6 mL) was degassed three times by successive application of vacuum to the reaction vessel followed by nitrogen purge. Palladium (II) acetate (0.007 g, 0.0312 mmol) was added to the reaction and the mixture heated to reflux under nitrogen for 3 h. The reaction was cooled to room temperature, diluted with Et2O, and extracted with water then 1 N NaOH (10 mL). The organic layer was dried (MgSO4) and the solvent removed in vacuo to give 0.316 g of crude 2-methyl-2-(4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester

reactant | 2-(4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.614 mmol, 0.30 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C24H26BrNO5
reactant | potassium phosphate | 1.22 mmol, 0.26 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | phenol | 0.733 mmol, 0.069 g | C1(=CC=CC=C1)O | C6H6O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
catalyst | Palladium (II) acetate | 0.0312 mmol, 0.007 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.0469 mmol, 0.014 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 2-methyl-2-(4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | 0.316 g | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC1=CC=CC=C1)C)=O | C30H31NO6
